US03962443
Ethyl 5,8-dihydro-8-(2-hydroxyethyl)-2-(4-methyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate (compound 68 )
A mixture containing 5.0 g of ethyl 5,8-dihydro-2-(4-methyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate, 70 ml of dimethylformamide, 0.90 g of 50% sodium hydride, and 3.8 g of ethylene chlorohydrin was heated at 100°C for one hour. Dimethylformamide was distilled off in vacuo, and the residue taken up in chloroform. The chloroform solution was washed with water, dried over anhydrous magnesium sulfate, and the solvent distilled off. The resulting solid was recrystallized from ethanol to yield 4.6 g of the product, m.p. 197° - 199°C.

reactant | ethyl 5,8-dihydro-2-(4-methyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate | 5.0 g | CN1CCN(CC1)C=1N=CC2=C(N1)NC=C(C2=O)C(=O)OCC | C15H19N5O3
reactant | sodium hydride | 0.90 g | [H-].[Na+]
reactant | ethylene chlorohydrin | 3.8 g | C(CO)Cl | C2H5ClO
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | Ethyl 5,8-dihydro-8-(2-hydroxyethyl)-2-(4-methyl-1-piperazinyl)-5-oxopyrido[2,3-d]pyrimidine-6-carboxylate | 4.6 g | OCCN1C=C(C(C2=C1N=C(N=C2)N2CCN(CC2)C)=O)C(=O)OCC | C17H23N5O4
